* C:\Users\DRA\Dropbox\My PC (DESKTOP-MR1852M)\Documents\LTspiceXVII\Lab1.2.asc
V1 N001 0 SINE(0 8 40 0.4 0 0 10)
R1 0 N001 1K
.tran 10
.backanno
.end
