* C:\Users\DRA\Dropbox\My PC (DESKTOP-MR1852M)\Documents\LTspiceXVII\2ndRC.asc
V1 N001 0 PULSE(0 10 0 0 0 1m 2m)
R1 N002 N001 1K
C1 N002 0 0.1µ
.tran 5m
.backanno
.end
