* C:\Users\DRA\Dropbox\My PC (DESKTOP-MR1852M)\Documents\LTspiceXVII\4.2.asc
V1 N001 0 SINE(0 12 50)
D§1N4148 N001 N002 D
D2 0 N002 1N4148
D3 N003 0 1N4148
D4 N003 N001 1N4148
R1 N002 N003 1000
.model D D
.lib C:\Users\DRA\Dropbox\My PC (DESKTOP-MR1852M)\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 70m
.backanno
.end
